US07067534B1
3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL (4-FLUOROPHENYL)ACETATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-{3-[1-(3-hydroxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and (4-fluorophenyl)acetyl chloride: ESMS m/e: 441.3 (M+H)+.

reactant | N-{3-[1-(3-hydroxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H28N2O2
reactant | (4-fluorophenyl)acetyl chloride | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
product | 3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL (4-FLUOROPHENYL)ACETATE | FC1=CC=C(C=C1)CC(=O)OCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C26H33FN2O3
